US07625903B2
2-{[5-Fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N-[2-(methylthio)ethyl]benzamide
Ethyl 2-{[5-fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzoate (200 mg, 0.51 mmoles) and 2-(methylthio)ethylamine (2 mL) were heated at 120° C. for 48 h. The reaction mixture was concentrated to dryness under vacuum and the title compound was purified by flash chromatography on silica gel (ethyl acetate containing 0.1% triethylamine). MS: M(C26H31FN6O2S)=510.2, (M+H)+=511.

reactant | Ethyl 2-{[5-fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzoate | 0.51 mmoles, 200 mg | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)OCC)C=CC=C1 | C25H28FN5O3
reactant | 2-(methylthio)ethylamine | 2 mL | CSCCN | C3H9NS
product | 2-{[5-Fluoro-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}-N-[2-(methylthio)ethyl]benzamide | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)NCCSC)C=CC=C1 | C26H31FN6O2S
